US04493843
A solution of phosphorus oxychloride (35 ml) in dimethylformamide (150 ml) was added to a solution of methyl 2-(n-heptyl)indole-6-carboxylate (67.5 g) in dimethylformamide (250 ml) and the resulting solution was stirred at between 70° and 85° C. for 2 hours. The mixture was then stirred for 30 minutes while the temperature dropped to 50° C. and was then poured into water (2 liters). Ice was added to reduce the temperature to 25° C. and a 50% w/v aqueous sodium hydroxide solution was added until the pH reached 11. After stirring for 10 minutes, acetic acid was added to pH 5 and the mixture was stirred until the product has solidified. Recrystallisation from methanol yielded methyl 3-formyl-2-(n-heptyl)indole-6-carboxylate (65.0 g) in the form of colourless, lustrous needles, m.p. 177°-180° C.

reactant | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 2-(n-heptyl)indole-6-carboxylate | 67.5 g | C(CCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C17H23NO2
reactant | water | 2 liters | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 3-formyl-2-(n-heptyl)indole-6-carboxylate | 65.0 g | C(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCCCCCC | C18H23NO3
